US04045568
1-[4-Heptylthio-4-(4-chlorophenyl)butyl]imidazole oxalate (2.0 g.) in 100 ml. of dichloromethane was shaken with excess dilute potassium carbonate solution until the salt was completely dissolved. The organic layer was then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield 1-[4-heptylthio-4-(4-chlorophenyl)butyl]imidazole as an oil.

reactant | 1-[4-Heptylthio-4-(4-chlorophenyl)butyl]imidazole oxalate | 2.0 g | C(C(=O)O)(=O)O.C(CCCCCC)SC(CCCN1C=NC=C1)C1=CC=C(C=C1)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[4-heptylthio-4-(4-chlorophenyl)butyl]imidazole | C(CCCCCC)SC(CCCN1C=NC=C1)C1=CC=C(C=C1)Cl | C20H29ClN2S
